US06300368B1
2′-[2-(Isopropylamino)ethoxy]-5′-nitromethanesulfonanilide (26.1 g) was dissolved into mixed solvents of methanol (200 ml) and ethyl acetate (200 ml) and subjected to hydrogenation reaction with 10% palladium carbon catalyst at ambient pressure. After completion of hydrogenation reaction, catalyst was removed by filtration. Filtrate was concentrated to dryness under vacuum to obtain 5′-amino-2′-[2-(isopropylamino)ethoxy]methanesulfonanilide (22 g) as brownish solid.

reactant | 2′-[2-(Isopropylamino)ethoxy]-5′-nitromethanesulfonanilide | 26.1 g | C(C)(C)NCCOC1=C(NS(=O)(=O)C)C=C(C=C1)[N+](=O)[O-] | C12H19N3O5S
reactant | methanol | 200 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5′-amino-2′-[2-(isopropylamino)ethoxy]methanesulfonanilide | 22 g | NC=1C=CC(=C(NS(=O)(=O)C)C1)OCCNC(C)C | C12H21N3O3S
